US05104889
Production of 2,6-di-tert-butyl-4-[(5-methyl-2-thiazolyl)amino]phenol
2,6-Di-tert-butyl-1,4-benzoquinone (2.20 g) and 3.43 g of 2-amino-5-methylthiazole were dissolved in 60 ml of anhydrous dichloroethane, 0.55 ml of titanium tetrachloride chloride was added, and the mixture was heated under reflux for 14.5 hours. The mixture was then cooled to room temperature, a solution of 40 g of sodium hydrosulfite in 150 ml of water was added, and the resultant mixture was stirred for 2 hours. The insoluble matter was filtered off, the filtrate was allowed to undergo phase separation, and the aqueous layer was further extracted with dichloromethane. The organic layers were combined, washed with saturated aqueous sodium chloride solution, dried over sodium sulfate and concentrated. Purification of the crude product thus obtained by silica gel column chromatography (diethyl ether-hexane =3:7) gave 1.07 g of the desired compound.

reactant | 2,6-Di-tert-butyl-1,4-benzoquinone | 2.20 g | C(C)(C)(C)C=1C(C(=CC(C1)=O)C(C)(C)C)=O | C14H20O2
reactant | 2-amino-5-methylthiazole | 3.43 g | NC=1SC(=CN1)C | C4H6N2S
reactant | sodium hydrosulfite | 40 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | dichloroethane | 60 ml | ClC(C)Cl | C2H4Cl2
solvent | water | 150 ml | O | H2O
catalyst | titanium tetrachloride chloride | 0.55 ml | [Cl-].[Ti](Cl)(Cl)(Cl)Cl
product | 2,6-di-tert-butyl-4-[(5-methyl-2-thiazolyl)amino]phenol | 1.07 g | C(C)(C)(C)C1=C(C(=CC(=C1)NC=1SC(=CN1)C)C(C)(C)C)O | C18H26N2OS
